US07812022B2
Step E: {4-[2-(3-Amino-phenyl)-pyrazolo[1,5-a]pyridin-3-yl]-pyrimidin-2-yl}-(3-fluoro-phenyl)-amine
A solution of 2,2,2-trifluoro-N-(3-{3-[2-(3-fluoro-phenylamino)-pyrimidin-4-yl]-pyrazolo[1,5-a]pyridin-2-yl}-phenyl)-acetamide (2.15 g, 4.4 mmol) and lithium hydroxide (277 mg, 6.6 mmol) in THF (44 mL) and water (10 mL) was stirred for 16 h. The reaction was extracted with DCM. The combined organic phases were dried over MgSO4 and purified through silica gel to give the title compound as a white solid. 1H NMR (400 MHz, d6-DMSO): δ 9.75 (s, 1H), 8.78 (d, J=6.8 Hz, 1H), 8.52 (d, J=9.2 Hz, 1H), 8.25 (d, J=5.6 Hz, 1H), 7.80 (d, J=12.4 Hz, 1H), 7.47-7.43 (m, 2H), 7.29-7.23 (m, 1H), 7.12-7.06 (m, 2H), 6.77 (s, 1H), 6.71 (dt, J=8.4 and 2.4 Hz, 1H), 6.66-6.62 (m, 2H), 6.54 (d, J=5.6 Hz, 1H), 5.21 (s, 2H) ppm. HRMS calculated C23H17FN6 [M+H]+ 397.1577 found 397.1558.

reactant | 2,2,2-trifluoro-N-(3-{3-[2-(3-fluoro-phenylamino)-pyrimidin-4-yl]-pyrazolo[1,5-a]pyridin-2-yl}-phenyl)-acetamide | 4.4 mmol, 2.15 g | FC(C(=O)NC1=CC(=CC=C1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)NC1=CC(=CC=C1)F)(F)F | C25H16F4N6O
reactant | lithium hydroxide | 6.6 mmol, 277 mg | [OH-].[Li+]
solvent | THF | 44 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | {4-[2-(3-Amino-phenyl)-pyrazolo[1,5-a]pyridin-3-yl]-pyrimidin-2-yl}-(3-fluoro-phenyl)-amine | NC=1C=C(C=CC1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)NC1=CC(=CC=C1)F | C23H17FN6
